US05716971
A mixture of 2-(5-bromo-2-methoxymethoxybenzoyl)-3-methoxymethoxypyridine (1.89 g), hydrochloric acid (10 ml) and methanol (80 ml) was stirred for 70 hours at room temperature. The reaction mixture was concentrated, which was partitioned with ethyl acetate-water. The organic layer was washed with a saturated aqueous saline solution, dried (anhydrous sodium sulfate) and concentrated. The concentrate was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 2-(5-bromo-2-hydroxybenzoyl)-3-hydroxypyridine (1.34 g) (Compound A-1).

reactant | 2-(5-bromo-2-methoxymethoxybenzoyl)-3-methoxymethoxypyridine | 1.89 g | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2OCOC)C1)OCOC | C16H16BrNO5
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 2-(5-bromo-2-hydroxybenzoyl)-3-hydroxypyridine | 1.34 g | BrC=1C=CC(=C(C(=O)C2=NC=CC=C2O)C1)O | C12H8BrNO3
